US07902181B2
b) (S)-tert-Butyl 2-((S)-1-amino-3-(4-(6-cyanopyridin-3-yl)phenyl)-1-oxopropan-2-ylcarbamoyl)piperidine-1-carboxylate
A solution of (S)-tert-butyl 2-((S)-1-amino-1-oxo-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propan-2-ylcarbamoyl)piperidine-1-carboxylate (0.150 g) in dioxane (1 mL) was added to a stirred solution of 5-bromopicolinonitrile (0.055 g) and bis[bis(1,2-diphenylphosphino)ethane]palladium (0) (0.003 g) in dioxane (1 mL) under nitrogen. The resulting mixture was stirred for 10 min. A solution of potassium carbonate (0.124 g) in water (0.75 mL) was added and the resulting solution was stirred at 75° C. for 16 h. The cooled mixture was evaporated to dryness. The residue was taken up in ethyl acetate and washed with saturated brine, dried over sodium sulfate and adsorbed onto silica. The crude product was purified by flash silica chromatography, eluting with 3:1 ethyl acetate/isohexane). Pure fractions were evaporated to dryness to afford the subtitle compound (0.113 g).

reactant | (S)-tert-butyl 2-((S)-1-amino-1-oxo-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propan-2-ylcarbamoyl)piperidine-1-carboxylate | 0.150 g | NC([C@H](CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C)=O | C26H40BN3O6
reactant | 5-bromopicolinonitrile | 0.055 g | BrC=1C=CC(=NC1)C#N | C6H3BrN2
reactant | potassium carbonate | 0.124 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.75 mL | O | H2O
product | (S)-tert-Butyl 2-((S)-1-amino-3-(4-(6-cyanopyridin-3-yl)phenyl)-1-oxopropan-2-ylcarbamoyl)piperidine-1-carboxylate | 0.113 g | NC([C@H](CC1=CC=C(C=C1)C=1C=NC(=CC1)C#N)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C)=O | C26H31N5O4
